US06743920B2
N-[2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide
Anhydrous dichloromethane (300 ml), 2-chloro-N4-(2-methylpropyl)-6-methyl pyridin-3,4-diamine (4.14 g) from Part B and triethylamine (2.93 ml) were combined and cooled to 0° C. To the resulting mixture was added dropwise ethoxyacetyl chloride (2.49 g). After 1 hour the resulting reaction mixture was allowed to warm to room temperature. After 2 hours, the reaction, monitored by HPLC, was complete, and the solvent was removed under reduced pressure. The resulting yellow oil was dissolved in ethyl acetate, and the resulting solution was washed with water. The organic layer was dried with magnesium sulfate and concentrated to a yellow oil under reduced pressure. The yellow oil was put through a column of silica gel using 20/80 ethyl acetate/hexane. NMR analysis of the oil obtained after removal of the solvent under reduce pressure indicated desired product (3.64 g) of good purity for use in the next step.

reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | 2-chloro-N4-(2-methylpropyl)-6-methyl pyridin-3,4-diamine | 4.14 g | ClC1=NC(=CC(=C1N)NCC(C)C)C | C10H16ClN3
reactant | ethoxyacetyl chloride | 2.49 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | triethylamine | 2.93 ml | C(C)N(CC)CC | C6H15N
product | N-[2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide | ClC1=NC(=CC(=C1NC(COCC)=O)NCC(C)C)C | C14H22ClN3O2
